US08703758B2
E) 6-(cyclopropylmethoxy)-2-[trans-4-(2-(morpholin-4-yl)-2-oxoethoxy)cyclohexyl]-1,3-benzoxazole
A suspension of trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexanol (311 mg), 4-(chloroacetyl)morpholine (532 mg) and tert-butoxy potassium (365 mg) in THF (5 mL) was stirred at room temperature overnight and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (427 mg).

reactant | trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexanol | 311 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)O)C=C1 | C17H21NO3
reactant | 4-(chloroacetyl)morpholine | 532 mg | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | tert-butoxy potassium | 365 mg | C(C)(C)(C)O[K]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(cyclopropylmethoxy)-2-[trans-4-(2-(morpholin-4-yl)-2-oxoethoxy)cyclohexyl]-1,3-benzoxazole | 427 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(=O)N2CCOCC2)C=C1 | C23H30N2O5
